Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Keflex / aspirin / Amoxicillin / dipyrone
 
Attending: ___
 
Chief Complaint:
LLQ Pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: 
This is a ___ year old female with past medical history of stress 
incontinence status post sling, kidney stones, and recent ED 
visit for LLQ pain attributed to kidney stones, who represented 
to ED with worsening LLQ pain. 

Patient reports she was in her normal state of health until 1 
week prior to presentation when she first noticed urinary 
frequency, and then LLQ pain.  Pain was crampy, constant and 
nonradiating.  She presented to ___ ED on ___, had a CTU with 
L periureteral and peripelvic stranding.  She was thought to 
have had a recently passed kidney stone and was discharged home 
with pain control.  She reports that after returning home she 
felt the oxycodone initially controlled her pain, but that after 
1 day, her LLQ pain worsened so that it was no longer improved 
with oral pain medication.  She developed associated nausea and 
chills.  Pain was crampy, constant, without alleviating or 
exacerbating factors.  Did not radiate.  No vaginal discharge or 
bleeding.  No diarrhea.  She reports associated constipation, 
which she believes relates to a decrease in her PO intake 
secondary to nausea.  

In the ED, initial VS were 100.5 HR 50 152/80 16 96%RA. Labs 
were notable for WBC 13.7, Hgb 14.0, Plt 178; K 4.3, Cr 0.7; UA 
with 4 WBCs, few bacteria, 1 epi, lactate 1.2; CT showed 
"Stranding and edema surrounding the left kidney and ureter", 
increased from prior CTU.  Patient was given morphine, Zofran, 
normal saline, ketorolac, and cipro and was admitted to medicine 
for further management.

On arrival to the floor, patient confirmed above. Full 10 point 
review of systems positive where noted, otherwise negative. 

 
Past Medical History:
stress incontinence status post sling
nephrolithiasis 
rosacea
GERD
osteopenia
seasonal allergies
s/p Csection x ___
s/p cholecystectomy
s/p benign L breast lumpectomy

 
Social History:
___
Family History:
Father died at age ___ years from stomach cancer
Mother alive, currently ___ years, has hypothyroidism, 
hypertension, CAD

 
Physical Exam:
ADMISSION
VS: 97.8 120/60 72 20 97%RA 
Gen- supine in bed, comfortable
Eyes - EOMI, anicteric
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft; moderate tenderness in LLQ, no rebound/guarding; +L 
CVA tenderness.  Normoactive bowel sounds
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate

DISCHARGE:
vitals: 98.0 PO  BP 124 / 78  HR 78  RR 16  O2 sat 98% RA
general: well appearing woman sitting up in bed, no acute 
distress
CV: r/r/r, no murmurs
Resp: clear bilaterally without wheezing
Abd: soft, nontender, nondistended, there is no CVA tenderness 
Ext: wwp, no edema

 
Pertinent Results:
Admission labs:
___ 12:15AM BLOOD WBC-13.7* RBC-4.47 Hgb-14.0 Hct-41.3 
MCV-92 MCH-31.3 MCHC-33.9 RDW-12.6 RDWSD-42.1 Plt ___
___ 12:15AM BLOOD Neuts-83.0* Lymphs-9.1* Monos-6.4 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-11.36* AbsLymp-1.24 
AbsMono-0.87* AbsEos-0.11 AbsBaso-0.04
___ 12:15AM BLOOD Glucose-146* UreaN-9 Creat-0.7 Na-141 
K-4.3 Cl-103 HCO3-22 AnGap-20

Discharge labs:
___ 06:40AM BLOOD WBC-8.3 RBC-3.90 Hgb-12.0 Hct-36.9 MCV-95 
MCH-30.8 MCHC-32.5 RDW-12.6 RDWSD-43.6 Plt ___
___ 06:40AM BLOOD Glucose-116* UreaN-9 Creat-0.7 Na-136 
K-4.3 Cl-104 HCO3-23 AnGap-13

MICRO
___ 11:15 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ - Bcx x 2 - PENDING, no growth to date

Imaging:

CXR - No acute cardiopulmonary process. 

CTU -  1. Stranding and edema surrounding the left kidney and 
ureter are increased from ___, concerning for infection. 
2. Bilateral nonobstructive renal calculi the largest measures 6 
mm in the left kidney. 
3. Normal bowel no evidence diverticulitis. 
4. Fibroid uterus. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with past medical history 
of stress incontinence status post sling, kidney stones, and 
recent ED visit for LLQ pain attributed to kidney stones, who 
represented to ED with worsening LLQ pain and found to have 
pyelonephritis.

# Pyelonephritis: Patient p/w LLQ in setting of radiographic 
findings, fever, leukocytosis, and physical exam. CTU showed 
increased stranding and edema surrounding the left kidney and 
ureter concerning for infection. Although urinalysis and urine 
culture resulted with polymicrobial organisms, patient treated 
empirically with ciprofloxacin with rapid improvement in 
symptoms. Thus, she was discharged to complete 1 week of empiric 
antibiotics. She was referred for urologic evaluation as an 
outpatient given non-obstructing stones seen on CTU.

# Constipation: Presented with constipation and resolved after 
miralax and colace. 

Chronic issues:
# Rosacea: continued home metrogel 
# GERD: continued home PPI 
# Osteopenia: continued home vitamin D
# Fibroids - seen on CT scan; patient not aware of this 
diagnosis previously and discussed this result with her. 

Transitional issues:
- Abnormal CT Chest - CTU from ___ ED visit showed "There is a 
4 mm nodule in the left lower lobe" which should have f/u CT 
scan in ___ year
- to complete 7 day course of ciprofloxacin for pyelonephritis
- should have f/u with urology for evaluation of non-obstructive 
kidney stones

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY 
2. Prempro (conj estrog-medroxyprogest ace) 0.3-1.5 mg oral 
DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Vitamin D 1000 UNIT PO DAILY 
5. PreserVision AREDS 2 (vit C,E-Zn-coppr-lutein-zeaxan) 
250-200-40-1 mg-unit-mg-mg oral DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*12 Tablet Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily:prn Disp #*10 Packet Refills:*0 
3.  Senna 8.6 mg PO DAILY 
RX *sennosides [senna] 8.6 mg 1 tab by mouth BID:prn Disp #*10 
Tablet Refills:*0 
4.  MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY  
5.  Pantoprazole 40 mg PO Q24H  
6.  Prempro (conj estrog-medroxyprogest ace) 0.3-1.5 mg oral 
DAILY  
7.  PreserVision AREDS 2 (vit C,E-Zn-coppr-lutein-zeaxan) 
250-200-40-1 mg-unit-mg-mg oral DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis
Nephrolithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 
It was a pleasure caring for you at ___.  You were admitted 
with abdominal pain and found to have an infection in your 
kidney. Please continue your antibiotics as directed.

On a recent CT scan from the emergency department, a small 
nodule in your lung was noticed.  The radiologists recommended 
you have a repeat CT scan in ___ year.

Please follow-up with your PCP ___ ___ weeks of discharge. 
Please call their office at  ___ to make an 
appointment. You can receive a referral for the urologist from 
your PCP at that appointment.

Please take care,
Your ___ Team 
 
Followup Instructions:
___